Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
RLE pain, swelling, erythema with fevers 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
HISTORY OF PRESENT ILLNESS  

___ y/o male with no known PMH aside from RLE cellulitis in
___ who presents with acute onset of fevers, chills, and
right
calf/foot pain since last evening. He states that he was at
baseline until the night prior to presentation (___) when he
noticed the onset of chills. He then awoke with right calf
swelling,
redness over the dorsal aspect of his right foot, and pain
extending up to his right thigh, which he describes as feeling
both sharp and numb. He was experiencing subjective fevers and
measured his temperature at 102. He notes sensation of his heart
racing when he feels febrile.

He otherwise denies chest pain or shortness of breath at the
time.
He denies recent wounds/insect bites/or trauma to his right foot
and calf. Although, he does note that he has two sites of 
eczema,
at the popliteal fossa and on his right foot, which he has been
scratching lately. He notes that his last episode of cellulitis
was in ___ and was precipitated by an abrasion to the right
foot. He was treated with Bactrim and Keflex with improvement in
cellulitis, although his course was complicated by c.diff
infection. 

No history of IV drug use, no history of immunosuppression
including HIV or diabetes. He further denied abdominal pain,
diarrhea, dysuria, pain, redness or swelling of the left foot.  

 
Past Medical History:
1 prior episode of cellulitis in the RLE in ___ 
C. Diff following cellulitis tx with Bactrim and Keflex 
 
Social History:
___
Family History:
Family History: Positive for diabetes in his father. ___
family history of DVT or PE.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
==========================  
VS:  T 100.1 BP 90/71 HR 97 R 20 O2 96 Ra 
GENERAL: NAD, sitting comfortably in bed with right leg raised
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva,
MMM
NECK: supple
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles  
ABDOMEN: nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: RLE with erythema and swelling over the medial
plantar surface, encompassing the dorsum of the right foot and
extending to the knee. Erythema and swelling contained within
demarcation. Exam notable for pain upon palpation of the RLE, no
crepitus noted. Tenderness of the left calf on palpation. No
swelling or erythema of LLE.
PULSES: 2+ DP pulses bilaterally  
NEURO: A&Ox3, moving all 4 extremities with purpose  
SKIN: warm and well perfused, no excoriations or lesions, no
rashes  

DISCHARGE PHYSICAL EXAM:  
===========================
Vitals:  98.8 130/80 86 17 95 Ra 
General: alert, oriented, no acute distress  
HEENT: sclera anicteric, MMM, EOMI 
Lungs: clear to auscultation bilaterally, no wheezes, rales,
ronchi  
CV: regular rate and rhythm, normal S1 + S2, no murmurs, rubs,
gallops  
Abdomen: soft, non-tender, non-distended, no rebound tenderness
or guarding    
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or
edema of LLE. RLE still has erythema, edema, and warmth from the
mid shin down through the foot but is much improved.   
Neuro: motor function grossly normal  

 
Pertinent Results:
==============
ADMISSION LABS
==============
___ 06:39PM BLOOD WBC-23.6* RBC-4.70 Hgb-14.8 Hct-45.0 
MCV-96 MCH-31.5 MCHC-32.9 RDW-12.2 RDWSD-43.0 Plt ___
___ 06:39PM BLOOD Plt ___
___ 06:39PM BLOOD Glucose-128* UreaN-8 Creat-1.2 Na-137 
K-4.1 Cl-95* HCO3-21* AnGap-21*
___ 06:52PM BLOOD Lactate-5.2*

==============
PERTINENT LABS
==============
___ 06:39PM BLOOD WBC-23.6* RBC-4.70 Hgb-14.8 Hct-45.0 
MCV-96 MCH-31.5 MCHC-32.9 RDW-12.2 RDWSD-43.0 Plt ___
___ 06:39PM BLOOD Plt ___
___ 06:39PM BLOOD Glucose-128* UreaN-8 Creat-1.2 Na-137 
K-4.1 Cl-95* HCO3-21* AnGap-21*
___ 06:52PM BLOOD Lactate-5.2*
___ 12:45PM BLOOD D-Dimer-1034*
___ 12:33AM BLOOD Lactate-1.8

============
MICROBIOLOGY
============
Blood cultures pending / no growth to date

___ URINE CULTURE (Final ___:    NO GROWTH. 

=======
IMAGING
=======
Chest CTA ___
No evidence of pulmonary embolism.  
Trace bilateral pleural effusions with associated atelectasis of 
both lower lobes. 

B/L ___ Extremities ___ 
No evidence of deep venous thrombosis in the right or left lower 
extremity 
veins. 

CT LOWER EXT W/C RIGHT ___. Soft tissue swelling and skin thickening over the dorsum of 
the foot and medial ankle suggest cellulitis.  No drainable 
fluid collection is seen. 
2. No soft tissue gas to suggest necrotizing fasciitis. 

==============
DISCHARGE LABS
==============

___ 07:55AM BLOOD WBC-13.8* RBC-4.11* Hgb-13.0* Hct-38.8* 
MCV-94 MCH-31.6 MCHC-33.5 RDW-12.2 RDWSD-42.5 Plt ___
___ 07:55AM BLOOD Plt ___
___ 07:55AM BLOOD Glucose-98 UreaN-10 Creat-1.0 Na-145 
K-4.2 Cl-104 HCO3-18* AnGap-23*
___ 07:40AM BLOOD ALT-15 AST-14 LD(LDH)-215 AlkPhos-54 
TotBili-0.8
___ 07:55AM BLOOD Calcium-9.8 Phos-3.9 Mg-2.___ otherwise healthy w/ h/o RLE cellulitis in ___ presenting 
with RLE erythema/warmth/swelling and fevers consistent with RLE 
non-purulent rapid onset superficial cellulitis with sxs 
consistent with sepsis in the ED now resolved with IVF and abx. 

Pt was admitted from the ED with 3 days of fevers with rapid 
onset redness, swelling, warmth and pain in the RLE as well as 
hypotension, tachycardia, fevers, elevated lactate to 5, anion 
gap. These resolved in the ED with IVF and abx. He got zosyn, 
vanc, cefazolin, and clinda in the ED due to concern for rapidly 
progressive infection. To r/o necrotizing fasciitis he got a CT 
which showed no evidence of NSTI and was consistent with 
cellulitis with no pockets of fluid or air. Given his 
tachycardia and swollen calf pt got EKG which showed some 
findings concerning for RH strain so patient got LENIs which 
were negative. D-DImer was elevated to 1000 so a CT-PA was 
ordered which was negative. On ___ he was transition from IV 
abx to Bactrim and Keflex and showed continued improved. He was 
started on clotrimazole for tinea pedis (likely source of 
cellulitis). He was d/c in stable condition with instruction f/u 
with his PCP and finish his course of abx. He did have a repeat 
EKG on ___ which showed mild RVH and RBBB, recommend OP f/u 
with PCP to decide if further work up is necessary. No CP or SOB 
at time of d/c. 

#Sepsis
#Recurrent right lower extremity cellulitis:
Patient presented with 3 days of fevers, RLE pain, redness and
swelling. Pt has history of cellulitis in ___ that improved 
with
Keflex and Bactrim, however tx complicated by c. diff colitis.
Patient got RLE CT in the ED which was consistent with 
cellulitis
with no evidence of necrotizing soft tissue infection or a
collection that needs to be drained. Patient had vitals and labs
consistent with sepsis (initial wbc of 23.6, lactate 5.2, fever,
tachycardia, and SBP < 100s) which later improved with IVF and
abx (received vanc, cefazolin, clinda, and zosyn in the ED).
Source of sepsis is likely cellulitis. ACS was consulted from 
the
ED, there was no need for acute surgical intervention at this
time. Sent to floor on vanc and cefazolin. On ___ d/c all IV 
abx
and switched to Bactrim and Keflex. On the morning of ___ the
patient's leg looks much improved with decreased redness,
swelling, and better ROM in the ankle. Pt appears to have tinea 
pedis between toes, this could be site of entry. 
- Continue PO Keflex, Bactrim
- F/u BCx (now ~48 hrs without growth) 
- Trend CBC 
- Serial exams of RLE to look for evidence of spread of 
infection
- Treatment of tinea pedis on d/c with clotrimazole 

#EKG changes
#PE-Workup 
Given tachycardia and EKG changes we were initially concerned 
for
PE. Pt got RLE LENIs which showed no evidence of DVT. 
Tachycardia
improved with fluids and abx. Never had hypoxia or chest pain.
Given Wells Score of 4.5 got ddimer to rule out PE. 
Unfortunately
was elevated to ~1000. Got chest CT which did not show a clot.
Given EKG changes got repeat EKG on ___ which showed mild RVH
and a RBB. Stable at this time with no CP.
- recommend ___ with PCP re EKG changes 

___: 
Had Creatinine of 1.2 in ED, most likely consistent with ___ in
setting of sepsis. repeat Creatinine was 0.8 ___ AM. Resolved. 

#Lactic acidosis:
#Anion gap metabolic acidosis: 
Initially with AG of 21 and lactate of 5.2 in the setting of
sepsis from right ___ cellulitis. AGMA most likely ___ lactic
acidosis which has now improved after fluid resuscitation. On
___ AG down to 16 from 21. 
- Trend ___

Transitional Issues:
====================
-Follow-up: He will follow-up with his PCP
-___ medications: Cephalexin, Bactrim, clotrimazole
-Cellulitis: He will continue cephalexin and Bactrim for 1 week 
until his follow-up appointment with his PCP.
-Hx of C. diff colitis: advised to notify PCP immediately if he 
develops diarrhea or abdominal pain while on abx. If this were 
to happen, we would advise low threshold for empirically 
starting treatment for C. diff pending stool studies.
-Tinea pedis: Likely source of cellulitis. Please monitor as an 
outpatient. He was started on clotrimazole cream.
-Labs: Please recheck a chem-10 at his next appointment. His 
creatinine and BUN rose slightly on day of discharge (still 
normal). He also had a new AG, but had stable vitals and no 
signs or symptoms of worsening infection.
-Abnormal EKG: He had RBBB and slight RAD. Consider TTE as an 
outpatient. He has no history of cardiac disease or family 
history of early cardiac death.
-Code status: Full code
-Contact: ___ (Mom) ___ ___ (Dad) 
___  
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild 
RX *acetaminophen 500 mg ___ tablet(s) by mouth Every 8 hours 
Disp #*30 Tablet Refills:*0 
2.  Cephalexin 500 mg PO Q6H 
RX *cephalexin 500 mg 1 tablet(s) by mouth every 6 hours Disp 
#*28 Tablet Refills:*0 
3.  Clotrimazole Cream 1 Appl TP BID:PRN foot fungus 
RX *clotrimazole 1 % Apply to right foot twice a day Refills:*0 
4.  Sulfameth/Trimethoprim DS 2 TAB PO BID 
RX *sulfamethoxazole-trimethoprim 800 mg-160 mg 2 tablet(s) by 
mouth twice a day Disp #*28 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis: 
==================
Cellulitis of right lower extremity

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

It was a pleasure taking care of you at ___. Please see below 
for information on your time in the hospital.

WHY WAS I IN THE HOSPITAL?
You were admitted to the hospital because of a severe skin 
infection called cellulitis so we could give you antibiotics 
through your IV. 

WHAT HAPPENED IN THE HOSPITAL?
You were given antibiotics which treated your infection. We 
started with IV antibiotics but switch to oral antibiotics 
because you improved so quickly. Since another cause of leg 
redness and swelling is a blood clot we got an ultrasound of 
your leg and a CT scan of your lungs to make sure you did not 
have clot in your lungs. Both tests were negative. 

WHAT SHOULD I DO WHEN I GO HOME?
Continue to take your antibiotics as prescribed (see below) and 
follow up with your primary care doctor ___ below). You will 
take oral antibiotics and use an antifungal cream for your foot 
fungus (likely the source of your bacterial infection).

We wish you the best!

-Your Care Team at ___
 
Followup Instructions:
___